US06028116
(C) (Z)-1-(4-methylsulfonylbenzylidene)-5-dimethylamino-2-methyl-1H-3-indenyl-(2-hydroxy)ethane
Lithium borohydride (1.38 mmol) in THF (2 ml) is added to the solution of (Z)-1-(4-methylsulfonylbenzylidene)-5-dimethylamino-2-methyl-3-indenylacetyl chloride (2.78 mmol) in THF (20 ml) at 0° C. The reaction is quenched with HCl after 5 minutes (10%, aqueous, 30 ml). Ethyl acetate (50 ml) is added to extract the product.

reactant | Lithium borohydride | 1.38 mmol | [BH4-].[Li+]
reactant | (Z)-1-(4-methylsulfonylbenzylidene)-5-dimethylamino-2-methyl-3-indenylacetyl chloride | 2.78 mmol | CS(=O)(=O)C1=CC=C(\C=C/2\C(=C(C3=CC(=CC=C23)N(C)C)CC(=O)Cl)C)C=C1 | C22H22ClNO3S
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (Z)-1-(4-methylsulfonylbenzylidene)-5-dimethylamino-2-methyl-1H-3-indenyl-(2-hydroxy)ethane | CS(=O)(=O)C1=CC=C(\C=C/2\C(=C(C3=CC(=CC=C23)N(C)C)CCO)C)C=C1 | C22H25NO3S
